US08859553B2
3-(2-(6-(Isopropylamino)pyridazin-3-yl)ethynyl)-4-methyl-N-(3-(4-methyl-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)benzamide
The title compound was synthesized from N-isopropyl-6-ethynylpyridazin-3-amine and 3-iodo-4-methyl-N-(3-(4-methyl-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)benzamide in a manner similar to that described for in Example 1. The product was obtained as a pale yellow solid. Mp: 192-194° C.; 1H NMR (300 MHz, DMSO-d6) δ: 10.73 (1H, s), 8.33 (1H, s), 8.17-8.22 (2H, m), 7.94-7.96 (1H, d, J=7.2 Hz), 7.76 (1H, s), 7.54-7.57 (1H, d, J=7.8 Hz), 7.45-7.48 (1H, d, J=8.4 Hz), 7.15-7.18 (1H, d, J=7.5 Hz), 6.79-6.82 (1H, d, J=9.0 Hz), 4.14-4.20 (1H, m), 2.56 (3H, s), 2.19 (3H, brs), 1.20-1.22 (6H, d, J=6.3 Hz). HRMS (ESI-TOF+): m/z [M+H]+ calcd for C28H26F3N6O: 519.2115. found: 519.2121.

reactant | N-isopropyl-6-ethynylpyridazin-3-amine | C(C)(C)NC=1N=NC(=CC1)C#C | C9H11N3
reactant | 3-iodo-4-methyl-N-(3-(4-methyl-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)benzamide | IC=1C=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)N2C=NC(=C2)C)C=CC1C | C19H15F3IN3O
product | 3-(2-(6-(Isopropylamino)pyridazin-3-yl)ethynyl)-4-methyl-N-(3-(4-methyl-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)benzamide | C(C)(C)NC1=CC=C(N=N1)C#CC=1C=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)N2C=NC(=C2)C)C=CC1C | C28H25F3N6O
